US08222248B2
To a solution of 4-amino-3-nitro-benzoic acid (546 mg). EDCI (576 mg) and HOBt (405 mg) in DMF (8 mL) was added 3,4-dimethylaniline (363 mg) and the mixture was stirred at room temperature for 3 h. The mixture was poured into water and exreacted with EtOAc. The organic phase was washed with water (2×) and was dried over sodium sulfate. The solvent was concentrated to approximately 10 mL and the resulting precipitate was filtered, washed with EtOAc and dried under reduced pressure to give 4-amino-N-(3,4-dimethyl-phenyl)-3-nitro-benzamide as a yellow solid, mp=192-195° C.; MS (m/z) 284 (M−1).

reactant | 4-amino-3-nitro-benzoic acid | 546 mg | NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | EDCI | 576 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 405 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3,4-dimethylaniline | 363 mg | CC=1C=C(N)C=CC1C | C8H11N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 4-amino-N-(3,4-dimethyl-phenyl)-3-nitro-benzamide | NC1=C(C=C(C(=O)NC2=CC(=C(C=C2)C)C)C=C1)[N+](=O)[O-] | C15H15N3O3
